2176-11-11 07:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2176-11-10**] 07:30 PM
   - Goal -1L per day.->negative 1L at midnight on 20mg IV BID.
   - Echo: ordered but not done.
   - A-line: finally placed at 8pm.  First ABG showed 7.61/32/77. Came
   down on RR to 18, repeat 7.55/40/104.
   - EKG: stable TWI in V1 to V3, otherwise normal.
   - Now currently on AC 450x14/PEEP 12
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 200 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2176-11-10**] 06:00 PM
   Midazolam (Versed) - [**2176-11-10**] 09:20 PM
   Heparin Sodium (Prophylaxis) - [**2176-11-10**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-11-11**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.1
C (98.7
   HR: 75 (61 - 83) bpm
   BP: 93/48(61) {92/48(61) - 139/79(101)} mmHg
   RR: 14 (14 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 155 kg (admission): 155 kg
   Height: 67 Inch
             Total In:
                                                                    697 mL
                                                                    332 mL
   PO:
             TF:
                                                                     84 mL
                                                                    105 mL
   IVF:
                                                                    553 mL
                                                                    227 mL
   Blood products:
   Total out:
                                                                  1,757 mL
                                                                    237 mL
   Urine:
                                                                  1,707 mL
                                                                    237 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,060 mL
                                                                     95 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 26 cmH2O
   Compliance: 32.1 cmH2O/mL
   SpO2: 96%
   ABG: THIS AM  7.48/51/101/38/12   <--7.55/40/104/36 <-- 7.61/32/77/33
   Ve: 6.4 L/min
   PaO2 / FiO2: 202
   Physical Examination
   General Appearance: Very large woman, unresponsive to voice or sternal
   rub. Intubated and with Dobhoff
   Head, Ears, Nose, Throat: Some spontaneous twitching of eyelids and
   mouth
   Cardiovascular: Very faint due to habitus but S1 S2 without murmurs
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: Grossly clear, intubated with fair air movement
   Abdominal: Very obese with several herniations, large midline scar, no
   TTP, no rigidity
   Extremities: Anasarcatous to abdomen
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   141 K/uL
   9.2 g/dL
   110 mg/dL
   1.0 mg/dL   (1.3 on admission)
   38 mEq/L
   4.6 mEq/L
   42 mg/dL  <-- 41, 43
   98 mEq/L
   141 mEq/L
   31.0 %
   7.2 K/uL
        [image002.jpg]
                             [**2176-11-9**]  10:22 PM
                             [**2176-11-10**]  01:11 AM
                             [**2176-11-10**]  07:04 AM
                             [**2176-11-10**]  10:45 AM
                             [**2176-11-10**]  08:44 PM
                             [**2176-11-10**]  09:51 PM
                             [**2176-11-11**]  04:03 AM
                             [**2176-11-11**]  04:21 AM
   WBC
   5.8
   7.2
   Hct
   32.4  <--39.1
   31.0
   Plt
   162
   141
   Cr
   1.0
   1.0
   TropT
   <0.01
   0.02
   TCO2
   48
   44
   38
   33
   36
   39
   Glucose
   159
   110
   Other labs: PT / PTT / INR:14.0/26.0/1.2   (TODAY), CK / CKMB /
   Troponin-T:181/2/0.02   (TODAY) , ALT / AST:17/21   (YESTERDAY), Alk
   Phos / T Bili:85/1.4, Differential-Neuts:87.0 %, Band:0.0 %, Lymph:11.0
   %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L  (today) , Ca++:9.3
   mg/dL, Mg++:2.0 mg/dL, PO4:2.3 mg/dL
   Imaging: [**11-10**] CXR
   Limited study, with upper chest excluded from image. NG tube tip seen
   to
   enter stomach below hemi-diaphragms, though tip is not definitively
   visualized, and may lie within proximal stomach. Left retrocardiac
   opacity,
   unchanged, may reflect atelectasis and pleural effusion
   [**11-11**] not done yet
   Microbiology: [**11-10**] sputum Gstain negative for microorganisms
   [**11-10**] UCx negative
   [**11-9**] BCx negative x2
   Assessment and Plan
 .H/O DIABETES MELLITUS (DM), TYPE II
 ACIDOSIS, RESPIRATORY
   Assessment and Plan: Ms. [**Known lastname **] is a 61 year old female with a history
   of type II diabetes, hypertension, morbid obesity and chronic dyspnea
   who presents to the emergency room with a one month history of
   worsening dyspnea on exertion.
   Acute on chronic hypercarbic respiratory failure:  Likely combination
   of obesity hypoventilation syndrome and possibly pulmonary
   hypertension, diastolic heart failure, possible bronchospasm with
   wheezing on exam.  She does not appear to have signs of pulmonary
   infection at this time.  Likely volume overloaded with gross anasarca
   in her legs and some in her belly.  Started on short steroid course
   Prednisone for possible element of bronchospasm
   - will treat with a short steroid course of prednisone 60 mg x 5 days
   - albuterol and iptratropium inhalers
   - Will start Lasix gtt with goal of  150cc/hr
   - will continue mechanical ventilation to optimize ABG
 was acidotic
   - will obtain echocardiogram to assess for pulmonary hypertension, RV
   strain
   - will not continue antibiotics
   - will obtain EKG in AM
   - sedation with fentanyl and versed as tolerated
   Type II Diabetes:
   - regular insulin sliding scale
   Hypertension: Blood pressures in the 100s on sedation.
   - hold home antihypertensives while on sedation
   FEN: No IVF, replete electrolytes, NPO, will start tube feeds for
   nutrition
    Prophylaxis: Subutaneous heparin, start Pepcid
    Access: peripherals
 Will likely need PICC placement
    Code:  Full
    Communication: Patient, daughter [**Name (NI) 27**] [**Name (NI) 419**] [**Telephone/Fax (1) 11337**]
    Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2176-11-11**] 12:00 AM 20 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2176-11-10**] 01:00 AM
   Arterial Line - [**2176-11-10**] 07:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2176-11-11 10:42:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - START [**2176-11-10**] 07:30 PM
   Remains intubated and sedated
   Echo pending
   negative a liter
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 200 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2176-11-10**] 06:00 PM
   Midazolam (Versed) - [**2176-11-10**] 09:20 PM
   Heparin Sodium (Prophylaxis) - [**2176-11-10**] 10:00 PM
   Other medications:
   fentanyl, versed, Lasix, pred 60, SQH, MDIs, CHG, H2B
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-11-11**] 10:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 74 (61 - 83) bpm
   BP: 102/56(69) {88/45(58) - 139/79(101)} mmHg
   RR: 14 (14 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 155 kg (admission): 155 kg
   Height: 67 Inch
             Total In:
                                                                    697 mL
                                                                    429 mL
   PO:
             TF:
                                                                     84 mL
                                                                    162 mL
   IVF:
                                                                    553 mL
                                                                    267 mL
   Blood products:
   Total out:
                                                                  1,757 mL
                                                                    237 mL
   Urine:
                                                                  1,707 mL
                                                                    237 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,060 mL
                                                                    192 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 34 cmH2O
   Plateau: 28 cmH2O
   Compliance: 34.6 cmH2O/mL
   SpO2: 97%
   ABG: 7.48/51/101/38/12
   Ve: 6.5 L/min
   PaO2 / FiO2: 202
   Physical Examination
   Sedated
   Obese
   Symmetric small pupils
   Distant heart
   Wheezes
   Obese abdomen with WHSS
   Lower extremity edema
   Labs / Radiology
   9.2 g/dL
   141 K/uL
   110 mg/dL
   1.0 mg/dL
   38 mEq/L
   4.6 mEq/L
   42 mg/dL
   98 mEq/L
   141 mEq/L
   31.0 %
   7.2 K/uL
        [image002.jpg]
                             [**2176-11-9**]  10:22 PM
                             [**2176-11-10**]  01:11 AM
                             [**2176-11-10**]  07:04 AM
                             [**2176-11-10**]  10:45 AM
                             [**2176-11-10**]  08:44 PM
                             [**2176-11-10**]  09:51 PM
                             [**2176-11-11**]  04:03 AM
                             [**2176-11-11**]  04:21 AM
   WBC
   5.8
   7.2
   Hct
   32.4
   31.0
   Plt
   162
   141
   Cr
   1.0
   1.0
   TropT
   <0.01
   0.02
   TCO2
   48
   44
   38
   33
   36
   39
   Glucose
   159
   110
   Other labs: PT / PTT / INR:14.0/26.0/1.2, CK / CKMB /
   Troponin-T:181/2/0.02, ALT / AST:17/21, Alk Phos / T Bili:85/1.4,
   Differential-Neuts:87.0 %, Band:0.0 %, Lymph:11.0 %, Mono:2.0 %,
   Eos:0.0 %, Lactic Acid:0.9 mmol/L, Ca++:9.3 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.3 mg/dL
   Assessment and Plan
   61-year-old with respiratory failure in the context of likely
   obesity/hypoventilation syndrome.  There is no clear evidence of
   infection at present.  There may be right heart failure.
   Today we will plan:
          Echo today (evaluate pulmonary hyptertension)
          Diuresis goal about -2L (Lasix gtt)
          Begin conversion toward bolus sedation
          Continue steroids and bronchodilators for possible
   bronchospasm.  No clear evidence for COPD, so holding off on ABX for
   now.
          Meticulous observation for possible infections, though none
   apparent at present
          PICC line
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2176-11-11**] 12:00 AM 20 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2176-11-10**] 01:00 AM
   Arterial Line - [**2176-11-10**] 07:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:  with daughters
   [**Name (NI) 36**] status: Full code
   Disposition :ICU
   Total time spent:  35 min
   Patient is critically ill

2176-11-13 07:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - started back lasix gtt 5mg/hr at noon with goal -2L. -2L at MN.
   - IR guided picc --> will be done tomorrow
   - PM ABG:  7.42/65/119/44
   - re-Cx'd including mini BAL
   - Started BM regimen
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2176-11-12**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-11-13**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37
C (98.6
   HR: 93 (82 - 107) bpm
   BP: 132/66(88) {99/56(71) - 152/76(100)} mmHg
   RR: 16 (16 - 18) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 146 kg (admission): 155 kg
   Height: 67 Inch
             Total In:
                                                                  1,543 mL
                                                                    464 mL
   PO:
             TF:
                                                                  1,404 mL
                                                                    442 mL
   IVF:
                                                                    139 mL
                                                                     22 mL
   Blood products:
   Total out:
                                                                  3,390 mL
                                                                  1,000 mL
   Urine:
                                                                  3,390 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,847 mL
                                                                   -536 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 29 cmH2O
   Plateau: 21 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 97%
   ABG: 7.47/65/92.[**Numeric Identifier 132**]/43/19
   Ve: 7 L/min
   PaO2 / FiO2: 232
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   134 K/uL
   9.9 g/dL
   228 mg/dL
   1.1 mg/dL
   43 mEq/L
   4.8 mEq/L
   41 mg/dL
   97 mEq/L
   145 mEq/L
   32.4 %
   9.9 K/uL
        [image002.jpg]
                             [**2176-11-11**]  05:45 PM
                            [**2176-11-12**]  05:02 AM
                            [**2176-11-12**]  05:16 AM
                            [**2176-11-12**]  06:42 AM
                            [**2176-11-12**]  03:49 PM
                            [**2176-11-12**]  04:23 PM
                            [**2176-11-12**]  11:13 PM
                            [**2176-11-13**]  02:02 AM
                            [**2176-11-13**]  02:14 AM
                            [**2176-11-13**]  04:08 AM
   WBC
   7.3
   9.9
   Hct
   31.1
   32.4
   Plt
   131
   134
   Cr
   1.3
   1.1
   1.1
   TCO2
   37
   46
   44
   44
   45
   49
   49
   Glucose
   [**Telephone/Fax (3) 11410**]
   Other labs: PT / PTT / INR:14.0/26.0/1.2, CK / CKMB /
   Troponin-T:181/2/0.02, ALT / AST:17/21, Alk Phos / T Bili:85/1.4,
   Differential-Neuts:87.0 %, Band:0.0 %, Lymph:11.0 %, Mono:2.0 %,
   Eos:0.0 %, Lactic Acid:0.9 mmol/L, Ca++:9.7 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.7 mg/dL
   Micro:
   Mini-BAL [**11-12**]: gram stain showed no PMNs, no microorganisms
   CXR:
   From [**11-12**] afternoon: interval improvement in the vascular congestion
   and cardiac size, improvement suggested in pulmonary edema. Likely
   layering pleural effusion right. Stable opacification retrocardiac left
   lung base likely basilar atelectasis. No evidence of pneumothorax.
   ECHO:
   Mild symmetric left ventricular hypertrophy with preserved global
   systolic function. Right ventricular cavity enlargement with low normal
   free wall motion. Mild pulmonary artery systolic hypertension.
   Compared with the prior report (images unavailable for review) of
   [**2173-1-27**], mild symmetric left ventricular hypertrophy and right
   ventricular cavity enlargement are now apparent. The other findings are
   similar.
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 .H/O DIABETES MELLITUS (DM), TYPE II
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Assessment and Plan: Ms. [**Known lastname **] is a 61 year old female with a history
   of type II diabetes, hypertension, morbid obesity and chronic dyspnea
   who presents to the emergency room with a one month history of
   worsening dyspnea on exertion, continues to be intubated but ABG
s have
   improved, now with echo showing RV dilatation and mild pulm art HTN.
   Acute on chronic hypercarbic respiratory failure:  Likely combination
   of obesity hypoventilation syndrome and possibly pulmonary
   hypertension, diastolic heart failure, possible bronchospasm with
   wheezing on exam.  She does not appear to have signs of pulmonary
   infection at this time.  Mini-BAL also showed no evidence of infection.
   Likely volume overloaded with gross anasarca in her legs and some in
   her belly.  Started on short steroid course Prednisone for possible
   element of bronchospasm, these do not appear to be helping and patient
   is not wheezing. Aggressive diuresis seems to be improving pulmonary
   edema based on CXR.
     -D/c steroids
    - Continue albuterol and iptratropium inhalers
    - Continue Lasix gtt, appears that she is improving in terms of CXR
   for pulmonary edema
    - sedation with fentanyl and versed as tolerated
   Metabolic Alkalosis: Most likely secondary to aggressive diuresis. Will
   give dose of acetazolamide and f/u ABG
   - Acetazolamide
   -F/u ABG after dose
   Type II Diabetes:
   - regular insulin sliding scale
   -blood sugars have been running in 200s, will add basal insulin as
   well
   Hypertension: Blood pressures in the 100s on sedation.
   - hold home antihypertensives while on sedation
   FEN: No IVF, replete electrolytes, Tube feeds
   Prophylaxis: Subutaneous heparin, Pepcid, start BM regimen
   Access: peripherals, PICC
   Code:  Full
   Communication: Patient, daughter [**Name (NI) 27**] [**Name (NI) 419**] [**Telephone/Fax (1) 11337**]
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2176-11-13**] 12:36 AM 60 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2176-11-10**] 01:00 AM
   Arterial Line - [**2176-11-10**] 07:30 PM
   PICC Line - [**2176-11-12**] 10:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2176-11-14 07:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - 2.6 L negative at 6pm so lasix gtt stopped.
   - acetazolamide 250mg given for [**2-7**] doses? unclear which.
   - gas improved to 7.45/65/76
   [**Location 1658**]9,555
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 100 mcg/hour
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2176-11-13**] 04:00 PM
   Dextrose 50% - [**2176-11-13**] 04:46 PM
   Famotidine (Pepcid) - [**2176-11-13**] 08:30 PM
   Fentanyl - [**2176-11-13**] 09:00 PM
   Heparin Sodium (Prophylaxis) - [**2176-11-13**] 10:30 PM
   Midazolam (Versed) - [**2176-11-13**] 11:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-11-14**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.1
C (98.7
   HR: 81 (66 - 104) bpm
   BP: 139/62(87) {120/56(57) - 160/74(103)} mmHg
   RR: 16 (15 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 146 kg (admission): 155 kg
   Height: 67 Inch
             Total In:
                                                                  1,335 mL
                                                                    361 mL
   PO:
             TF:
                                                                  1,120 mL
                                                                    274 mL
   IVF:
                                                                    120 mL
                                                                     87 mL
   Blood products:
   Total out:
                                                                  4,750 mL
                                                                  1,340 mL
   Urine:
                                                                  4,750 mL
                                                                  1,340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,415 mL
                                                                   -979 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 29 cmH2O
   Plateau: 24 cmH2O
   Compliance: 32.1 cmH2O/mL
   SpO2: 96%
   ABG: 7.46/65/101/41/18
   Ve: 7.2 L/min
   PaO2 / FiO2: 253
   Physical Examination
   Gen: Elderly female, intubated, sedated but following all commands,
   denies pain
   HEENT: MMM, sclera anicteric
   CV: RRR, no M/R/G
   Lungs  decreased breath sounds at bases b/l
   [**Last Name (un) 61**]: NABS, soft, obese, NT
   Extrem:
   Labs / Radiology
   135 K/uL
   9.5 g/dL
   217 mg/dL
   0.9 mg/dL
   41 mEq/L
   4.6 mEq/L
   38 mg/dL
   97 mEq/L
   142 mEq/L
   32.9 %
   9.9 K/uL
        [image002.jpg]
                            [**2176-11-12**]  06:42 AM
                            [**2176-11-12**]  03:49 PM
                            [**2176-11-12**]  04:23 PM
                            [**2176-11-12**]  11:13 PM
                            [**2176-11-13**]  02:02 AM
                            [**2176-11-13**]  02:14 AM
                            [**2176-11-13**]  04:08 AM
                            [**2176-11-13**]  06:12 PM
                            [**2176-11-14**]  03:25 AM
                            [**2176-11-14**]  03:44 AM
   WBC
   9.9
   9.9
   Hct
   32.4
   32.9
   Plt
   134
   135
   Cr
   1.1
   1.1
   0.9
   TCO2
   44
   44
   45
   49
   49
   47
   48
   Glucose
   [**Telephone/Fax (3) 11434**]
   Other labs: PT / PTT / INR:14.0/26.0/1.2, CK / CKMB /
   Troponin-T:181/2/0.02, ALT / AST:17/21, Alk Phos / T Bili:85/1.4,
   Differential-Neuts:87.0 %, Band:0.0 %, Lymph:11.0 %, Mono:2.0 %,
   Eos:0.0 %, Lactic Acid:0.8 mmol/L, Ca++:9.7 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.5 mg/dL
   Assessment and Plan
 ALKALOSIS, METABOLIC
 IMPAIRED SKIN INTEGRITY
 .H/O DIABETES MELLITUS (DM), TYPE II
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Assessment and Plan: Ms. [**Known lastname **] is a 61 year old female with a history
   of type II diabetes, hypertension, morbid obesity and chronic dyspnea
   who presents to the emergency room with a one month history of
   worsening dyspnea on exertion, continues to be intubated but ABG
s have
   improved, now with echo showing RV dilatation and mild pulm art HTN.
   Acute on chronic hypercarbic respiratory failure:  Most likely
   secondary to pulmonary edema from diastolic heart failure. Patient
   CXR has been intermittently improving with aggressive diuresis. Per
   family patient gained approximately 60lb over the past month, most of
   which is likely fluid. Will attempt to diurese off. Also likely obesity
   hypoventilation. Less concern for bronchospasm as patient has not
   sounded wheezy on exam. No signs of pulmonary infection at this time,
   mini BAL showed no evidence of infection.
   - Continue albuterol and iptratropium inhalers
    - Lasix gtt goal -2L again today, appears that she is improving in
   terms of CXR for pulmonary edema
    - wean sedation with fentanyl and versed as tolerated
   -SBT this afternoon as patient appears clinically more awake
   Metabolic Alkalosis: Most likely secondary to aggressive diuresis. ABG
   after acetazolamide improved, then ABG this morning again more
   acidotic. Will give another dose of acetazolamine.
   - Acetazolamide
   Type II Diabetes:
   - regular insulin sliding scale
   -blood sugars have been running in 200s, will increase basal insulin
   Hypertension: Blood pressures in the 100s on sedation.
   - hold home antihypertensives while on sedation
   FEN: No IVF, replete electrolytes, Tube feeds
   Prophylaxis: Subutaneous heparin, Pepcid, start BM regimen
   Access: peripherals, PICC
   Code:  Full
   Communication: Patient, daughter [**Name (NI) 27**] [**Name (NI) 419**] [**Telephone/Fax (1) 11337**]
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2176-11-13**] 12:36 AM 60 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2176-11-10**] 01:00 AM
   Arterial Line - [**2176-11-10**] 07:30 PM
   PICC Line - [**2176-11-12**] 10:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU pending clinical improvement

2176-11-14 11:22:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, CHF/volume overload
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   3.5L negative
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 75 mcg/hour
   Furosemide (Lasix) - 1 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2176-11-13**] 04:00 PM
   Dextrose 50% - [**2176-11-13**] 04:46 PM
   Famotidine (Pepcid) - [**2176-11-13**] 08:30 PM
   Fentanyl - [**2176-11-13**] 09:00 PM
   Heparin Sodium (Prophylaxis) - [**2176-11-13**] 10:30 PM
   Midazolam (Versed) - [**2176-11-14**] 06:45 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-11-14**] 11:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.2
C (98.9
   HR: 84 (66 - 104) bpm
   BP: 140/69(92) {122/56(57) - 179/99(126)} mmHg
   RR: 16 (13 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 138 kg (admission): 155 kg
   Height: 67 Inch
             Total In:
                                                                  1,335 mL
                                                                    569 mL
   PO:
             TF:
                                                                  1,120 mL
                                                                    449 mL
   IVF:
                                                                    120 mL
                                                                    120 mL
   Blood products:
   Total out:
                                                                  4,750 mL
                                                                  2,640 mL
   Urine:
                                                                  4,750 mL
                                                                  2,640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,415 mL
                                                                 -2,071 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 2
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 30 cmH2O
   Plateau: 24 cmH2O
   Compliance: 32.1 cmH2O/mL
   SpO2: 95%
   ABG: 7.46/65/101/41/18
   Ve: 8.4 L/min
   PaO2 / FiO2: 253
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.5 g/dL
   135 K/uL
   217 mg/dL
   0.9 mg/dL
   41 mEq/L
   4.6 mEq/L
   38 mg/dL
   97 mEq/L
   142 mEq/L
   32.9 %
   9.9 K/uL
        [image002.jpg]
                            [**2176-11-12**]  06:42 AM
                            [**2176-11-12**]  03:49 PM
                            [**2176-11-12**]  04:23 PM
                            [**2176-11-12**]  11:13 PM
                            [**2176-11-13**]  02:02 AM
                            [**2176-11-13**]  02:14 AM
                            [**2176-11-13**]  04:08 AM
                            [**2176-11-13**]  06:12 PM
                            [**2176-11-14**]  03:25 AM
                            [**2176-11-14**]  03:44 AM
   WBC
   9.9
   9.9
   Hct
   32.4
   32.9
   Plt
   134
   135
   Cr
   1.1
   1.1
   0.9
   TCO2
   44
   44
   45
   49
   49
   47
   48
   Glucose
   [**Telephone/Fax (3) 11434**]
   Other labs: PT / PTT / INR:14.0/26.0/1.2, CK / CKMB /
   Troponin-T:181/2/0.02, ALT / AST:17/21, Alk Phos / T Bili:85/1.4,
   Differential-Neuts:87.0 %, Band:0.0 %, Lymph:11.0 %, Mono:2.0 %,
   Eos:0.0 %, Lactic Acid:0.8 mmol/L, Ca++:9.7 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.5 mg/dL
   Assessment and Plan
 ALKALOSIS, METABOLIC
 IMPAIRED SKIN INTEGRITY
 .H/O DIABETES MELLITUS (DM), TYPE II
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   61 yo woman with respirtory failure in setting of volume overload,
   likely OHS.  Diuresing well.
   1. Respiratory failure. Continue Lasix gtt and diurese as tolerated.
   Getting close to attempt for extubation  -SBT today.
   2. Metabolic alkalosis: Continue acetazolide - 4 total doses
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2176-11-14**] 10:54 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2176-11-10**] 07:30 PM
   PICC Line - [**2176-11-12**] 10:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2176-11-15 06:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - failed SBT
   - continues diuresis
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2176-11-14**] 06:45 AM
   Heparin Sodium (Prophylaxis) - [**2176-11-14**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-11-15**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.6
C (97.9
   HR: 87 (69 - 93) bpm
   BP: 124/64(83) {111/56(73) - 179/99(126)} mmHg
   RR: 12 (5 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 138 kg (admission): 155 kg
   Height: 67 Inch
             Total In:
                                                                  1,115 mL
                                                                    237 mL
   PO:
             TF:
                                                                    960 mL
                                                                    226 mL
   IVF:
                                                                    155 mL
                                                                     11 mL
   Blood products:
   Total out:
                                                                  4,430 mL
                                                                    820 mL
   Urine:
                                                                  4,430 mL
                                                                    820 mL
   NG:
   Stool:
   Drains:
   Balance:
                  -3,315  --> negative 12L through LOS, making good UOP mL
                                                                   -583 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 316 (316 - 320) mL
   PS : 15 cmH2O
   RR (Set): 16
   RR (Spontaneous): 1
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 154
   PIP: 10 cmH2O
   Plateau: 23 cmH2O
   SpO2: 97%
   ABG: 7.36/81/81/48/16   --> yesterday at 7pm
   Ve: 6.9 L/min
   PaO2 / FiO2: 203
   Physical Examination
   General Appearance: Awoken to voice, answers questions. Not in pain,
   not SOB.
   Cardiovascular: S1 S2 clear, RRR
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: Fair air movement, some expiratory rubbing sounds
   in R mid lung
   Abdominal: Obese, not tender to palpation
   Extremities: Improved edema in BLE
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   135 K/uL
   10.2 g/dL
   35.8 %
   8.3 K/uL
        [image002.jpg]
                            [**2176-11-12**]  11:13 PM
                            [**2176-11-13**]  02:02 AM
                            [**2176-11-13**]  02:14 AM
                            [**2176-11-13**]  04:08 AM
                            [**2176-11-13**]  06:12 PM
                            [**2176-11-14**]  03:25 AM
                            [**2176-11-14**]  03:44 AM
                            [**2176-11-14**]  01:50 PM
                            [**2176-11-14**]  06:40 PM
                            [**2176-11-15**]  05:27 AM
   WBC
   9.9
   9.9
   8.3
   Hct
   32.4
   32.9
   35.8
   Plt
   134
   135
   135
   Cr
   1.1
   0.9
   TCO2
   45
   49
   49
   47
   48
   49
   48
   Glucose
   228
   217
   Other labs: PT / PTT / INR:14.0/26.0/1.2, CK / CKMB /
   Troponin-T:181/2/0.02, ALT / AST:17/21, Alk Phos / T Bili:85/1.4,
   Differential-Neuts:87.0 %, Band:0.0 %, Lymph:11.0 %, Mono:2.0 %,
   Eos:0.0 %, Lactic Acid:0.7 mmol/L, PO4:
   Fluid analysis / Other labs: Lactate 0.7 yesterday
   Imaging: CXR this am --> effusions appear improved? (my read)
   Microbiology: no positive cultures through admission
   Assessment and Plan
 ALKALOSIS, METABOLIC
 IMPAIRED SKIN INTEGRITY
 .H/O DIABETES MELLITUS (DM), TYPE II
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Assessment and Plan: Ms. [**Known lastname **] is a 61 year old female with a history
   of type II diabetes, hypertension, morbid obesity and chronic dyspnea
   who presents to the emergency room with a one month history of
   worsening dyspnea on exertion, continues to be intubated and trying to
   wean from vent.
   Acute on chronic hypercarbic respiratory failure:  Most likely
   secondary to pulmonary edema from diastolic heart failure. Patient
   CXR has been intermittently improving with aggressive diuresis. Per
   family patient gained approximately 60lb over the past month, most of
   which is likely fluid which we have been diuresing off. Also likely
   obesity hypoventilation. Less concern for bronchospasm as patient has
   not sounded wheezy on exam. No signs of pulmonary infection at this
   time, mini BAL showed no evidence of infection.
   - Need ABG this am, was getting more hypercarbic and hypoxic yesterday
   - [**Month (only) 51**] need to go back on AC to control RR to get CO2 off
   - Continue albuterol and iptratropium inhalers
   - Will hold on Lasix diuresis this am but watch UOP
   - Have weaned sedation and will try to use as little as possible
   - If ABG improves try SBT again
   Metabolic Alkalosis: Most likely secondary to aggressive diuresis. Now
   more acidotic yesterday with increased CO2 and increased HCO3. Will
   continue to give Acetazolamide and try to get CO2 down with vent.
   - Acetazolamide
   Type II Diabetes:
   - regular insulin sliding scale
   -blood sugars have been running in 100's yesterday, keep insulin as is
   Hypertension: Blood pressures in the 100s on sedation.
   - hold home antihypertensives while on sedation
   FEN: No IVF, replete electrolytes, Tube feeds
   Prophylaxis: Subutaneous heparin, Pepcid, start BM regimen
   Access: peripherals, PICC
   Code:  Full
   Communication: Patient, daughter [**Name (NI) 27**] [**Name (NI) 419**] [**Telephone/Fax (1) 11337**]
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2176-11-10**] 07:30 PM
   PICC Line - [**2176-11-12**] 10:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2176-11-15 13:03:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   HPI:
   24 Hour Events:
   Failed SBT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Furosemide (Lasix) - 1.5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2176-11-15**] 08:17 AM
   Other medications:
   SQI, bowel reg, s/p diamox x 4, H2B, Lasix @ 1.5, CHG, SQH, MDIs
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-11-15**] 12:55 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.6
C (97.8
   HR: 94 (69 - 94) bpm
   BP: 114/59(76) {101/53(59) - 139/73(95)} mmHg
   RR: 22 (12 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 132 kg (admission): 155 kg
   Height: 67 Inch
             Total In:
                                                                  1,118 mL
                                                                    672 mL
   PO:
             TF:
                                                                    962 mL
                                                                    512 mL
   IVF:
                                                                    156 mL
                                                                     51 mL
   Blood products:
   Total out:
                                                                  4,430 mL
                                                                  1,570 mL
   Urine:
                                                                  4,430 mL
                                                                  1,570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,312 mL
                                                                   -898 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 296 (296 - 316) mL
   PS : 15 cmH2O
   RR (Set): 16
   RR (Spontaneous): 21
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 100
   PIP: 24 cmH2O
   Plateau: 23 cmH2O
   SpO2: 96%
   ABG: 7.31/91.[**Numeric Identifier 143**]/76.[**Numeric Identifier 126**]/44/15
   Ve: 6 L/min
   PaO2 / FiO2: 190
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right lower extremity edema: 1+ edema, Left lower
   extremity edema: 1+ edema
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   10.2 g/dL
   135 K/uL
   167 mg/dL
   0.9 mg/dL
   44 mEq/L
   4.2 mEq/L
   35 mg/dL
   98 mEq/L
   144 mEq/L
   35.8 %
   8.3 K/uL
        [image002.jpg]
                            [**2176-11-13**]  02:02 AM
                            [**2176-11-13**]  02:14 AM
                            [**2176-11-13**]  04:08 AM
                            [**2176-11-13**]  06:12 PM
                            [**2176-11-14**]  03:25 AM
                            [**2176-11-14**]  03:44 AM
                            [**2176-11-14**]  01:50 PM
                            [**2176-11-14**]  06:40 PM
                            [**2176-11-15**]  05:27 AM
                            [**2176-11-15**]  11:16 AM
   WBC
   9.9
   9.9
   8.3
   Hct
   32.4
   32.9
   35.8
   Plt
   134
   135
   135
   Cr
   1.1
   0.9
   0.9
   TCO2
   49
   49
   47
   48
   49
   48
   48
   Glucose
   [**Telephone/Fax (3) 11485**]
   Other labs: PT / PTT / INR:14.0/26.0/1.2, CK / CKMB /
   Troponin-T:181/2/0.02, ALT / AST:17/21, Alk Phos / T Bili:85/1.4,
   Differential-Neuts:87.0 %, Band:0.0 %, Lymph:11.0 %, Mono:2.0 %,
   Eos:0.0 %, Lactic Acid:0.5 mmol/L, Ca++:9.6 mg/dL, Mg++:1.7 mg/dL,
   PO4:3.5 mg/dL
   Imaging: CXR with effusions
   Assessment and Plan
   61-year-old woman with respiratory failure, likely related to a
   combination of volume overload (cor pulmonale) and
   obesity-hypoventilation.  We have made substantial progress with
   diuresis (net -12.5 L).  Her post-SBT blood gas was more hypercarbic
   than we might hope (7.31 / 91 /  76).  This reflects both metabolic
   alkalosis from diuresis, and her  obesity-hypoventilation syndrome.
   There is no evidence of infection.  We will continue to attempt -2L per
   day, and keep bicarb closer to 40 if possible using Diamox.  Her
   sedation is essentially optimized.  Wean PSV as tolerated.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2176-11-15**] 05:34 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2176-11-10**] 07:30 PM
   PICC Line - [**2176-11-12**] 10:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:  30 min
   Patient is critically ill

2176-11-16 07:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Got Diamox x1 yesterday
   Continued diuresis, currently on 2mg/hr Lasix
   PS weaned from 15 --> 10 this am, then failed SBT with RSBI 160
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2176-11-15**] 08:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-11-16**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 88 (87 - 94) bpm
   BP: 92/88(89) {92/46(59) - 133/88(89)} mmHg
   RR: 23 (12 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 132 kg (admission): 155 kg
   Height: 67 Inch
             Total In:
                                                                  1,613 mL
                                                                    310 mL
   PO:
             TF:
                                                                    991 mL
                                                                    237 mL
   IVF:
                                                                    182 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                  3,185 mL
                                                                    920 mL
   Urine:
                                                                  3,185 mL
                                                                    920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                            -1,572 --> 13L negative LOS mL
                                                                   -610 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 315 (290 - 427) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 160
   PIP: 24 cmH2O
   SpO2: 95%
   ABG: 7.31/92/76/43/15   today at 7am
   Ve: 6.5 L/min
   PaO2 / FiO2: 190
   Physical Examination
   General Appearance: Awake, alert, with tube but sedate, answers
   appropriately
   Cardiovascular: RRR, S1 S2 clear, heart benign
   Respiratory / Chest: Fair air movement, sounds fairly clear
   Abdominal: Hyperactive BS's, soft, NT with ventral hernias as
   previously noted
   Extremities: BLE edema is MUCH improved
   Labs / Radiology
   116 K/uL
   10.0 g/dL
   166 mg/dL
   0.7 mg/dL
   43 mEq/L
   4.1 mEq/L
   28 mg/dL
   95 mEq/L
   140 mEq/L
   33.5 %
   7.9 K/uL
        [image002.jpg]
                            [**2176-11-13**]  04:08 AM
                            [**2176-11-13**]  06:12 PM
                            [**2176-11-14**]  03:25 AM
                            [**2176-11-14**]  03:44 AM
                            [**2176-11-14**]  01:50 PM
                            [**2176-11-14**]  06:40 PM
                            [**2176-11-15**]  05:27 AM
                            [**2176-11-15**]  11:16 AM
                            [**2176-11-15**]  06:25 PM
                            [**2176-11-16**]  03:35 AM
   WBC
   9.9
   8.3
   7.9
   Hct
   32.9
   35.8
   33.5
   Plt
   135
   135
   116
   Cr
   0.9
   0.9
   0.7
   0.7
   TCO2
   49
   47
   48
   49
   48
   48
   Glucose
   [**Telephone/Fax (3) 11512**]
   Other labs: PT / PTT / INR:12.9/27.2/1.1, CK / CKMB /
   Troponin-T:181/2/0.02, ALT / AST:17/21, Alk Phos / T Bili:85/1.4,
   Differential-Neuts:87.0 %, Band:0.0 %, Lymph:11.0 %, Mono:2.0 %,
   Eos:0.0 %, Lactic Acid:0.5 mmol/L, Ca++:9.5 mg/dL, Mg++:1.6 mg/dL,
   PO4:3.8 mg/dL
   Imaging: CXR this am
   Microbiology: [**11-12**] mini BAL negative
   [**11-12**] BCx negative x2
   [**11-12**] UCx negative
   [**11-10**] sputum negative
   Assessment and Plan
 ALKALOSIS, METABOLIC
 IMPAIRED SKIN INTEGRITY
 .H/O DIABETES MELLITUS (DM), TYPE II
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Assessment and Plan: Ms. [**Known lastname **] is a 61 year old female with a history
   of type II diabetes, hypertension, morbid obesity and chronic dyspnea
   who presents to the emergency room with a one month history of
   worsening dyspnea on exertion. We have been successfully diuresing her
   and she continues to improve but currently having difficulty weaning
   from vent due to high RSBI's.
   Acute on chronic hypercarbic respiratory failure:  Most likely
   secondary to pulmonary edema from diastolic heart failure. Patient
   CXR has been intermittently improving with aggressive diuresis. Per
   family patient gained approximately 60lb over the past month, most of
   which is likely fluid which we have been diuresing off. Also likely
   obesity hypoventilation. Less concern for bronchospasm as patient has
   not sounded wheezy on exam. No signs of pulmonary infection at this
   time, mini BAL showed no evidence of infection.
   - Continue to diurese her, currently at 2mg/hr of Lasix with continued
   goal of 1-2L/day
   - Tolerating CO2's of 80-90 with well compensated HCO3.
   - Will not be too aggressive with lowering of CO2
   - Will continue to wean her, she is currently on CPAP [**10-10**], 40%
   - Continue daily SBT and RSBI's
   - OOB to chair daily
   - Sedation has been weaned to Versed 0.5 mg/hr, she appears comfortable
   - Continue albuterol and iptratropium inhalers
   - Consider extubation today if does well on SBT
   Metabolic Alkalosis as compensation for chronic respiratory acidosis:
   Most likely secondary to aggressive diuresis. Has now gotten 5 doses of
   Acetazolamide.
   - Acetazolamide x1 dose today
   Type II Diabetes:
   - regular insulin sliding scale
   -blood sugars have been running in 100's yesterday, keep insulin as is
   FEN: No IVF, replete electrolytes, Tube feeds
   Prophylaxis: Subutaneous heparin, Pepcid, start BM regimen
   Access: peripherals, PICC
   Code:  Full
   Communication: Patient, daughter [**Name (NI) 27**] [**Name (NI) 419**] [**Telephone/Fax (1) 11337**]
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2176-11-15**] 11:34 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2176-11-10**] 07:30 PM
   PICC Line - [**2176-11-12**] 10:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Events: received diamox, diuresed, able to wean PSV to 10 sitting
   upright.
   VS notable for T98.8, -1.5L O/N.
   Exam notable for an obese woman in NAD, sitting up, ETT in place.  She
   is awake and alert.  Decreased BS B/L.
   Labs notable for stable CBC, Cr 0.7, bicarb of 43.
   Meds include: lasix gtt, diamox.
   ABG 7.31/92/76.  PSV 10/5 TV 200
   CXR: R effusion, low lung volumes.
   Respiratory failure in setting of obesity (likely obesity
   hypoventilation), CHF; no evidence of infection.  Doing slightly
   better; she is diuresing well, resp status appears to be improving.
   Getting diamox to manage metabolic alkalosis.
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 35 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) **], MD
   on:[**2176-11-16**] 02:58 PM ------

2176-11-17 07:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - PS weaned 15 --> 10, this am failed SBT with RSBI 160
   - Still on 2mg/hr Lasix, goal -1 to 2 liters -> negative 2.3L
   - acetazolamide x1 for continued metabolic alkalosis.
   - Great gas on CPAP [**10-10**]: 7.32/83/97/45.  Will reattempt SBT in AM.
   - Total negative for stay: -16L
   This morning:
   RSBI:97, VT 278 RR27
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 1 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2176-11-16**] 10:00 PM
   Midazolam (Versed) - [**2176-11-17**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-11-17**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.1
C (98.8
   HR: 93 (90 - 98) bpm
   BP: 119/55(76) {102/47(63) - 132/65(85)} mmHg
   RR: 24 (13 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 128 kg (admission): 155 kg
   Height: 67 Inch
             Total In:
                                                                  1,282 mL
                                                                    380 mL
   PO:
             TF:
                                                                    962 mL
                                                                    297 mL
   IVF:
                                                                    260 mL
                                                                     83 mL
   Blood products:
   Total out:
                                                                  3,610 mL
                                                                    960 mL
   Urine:
                                                                  3,610 mL
                                                                    960 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,328 mL
                                                                   -580 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 253 (212 - 352) mL
   PS : 5 cmH2O
   RR (Spontaneous): 27
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 97
   PIP: 6 cmH2O
   SpO2: 99%
   ABG: 7.32/82.[**Numeric Identifier 143**]/96.[**Numeric Identifier 181**]/39/12
   Ve: 6.9 L/min
   PaO2 / FiO2: 242
   Physical Examination
   Gen: intubated, no longer sedated, responding appropriately to
   questions, NAD
   CV: RRR, no M/R/G
   Lungs breath sounds decreased at bases b/l, ok inspiratory effort
   [**Last Name (un) 61**] NABS, soft, NT, obese, multiple ventral hernias
   Extrem: trace peripheral edema
   Labs / Radiology
   135 K/uL
   9.8 g/dL
   144 mg/dL
   0.8 mg/dL
   39 mEq/L
   4.1 mEq/L
   22 mg/dL
   96 mEq/L
   140 mEq/L
   34.4 %
   8.9 K/uL
        [image002.jpg]
                            [**2176-11-14**]  03:44 AM
                            [**2176-11-14**]  01:50 PM
                            [**2176-11-14**]  06:40 PM
                            [**2176-11-15**]  05:27 AM
                            [**2176-11-15**]  11:16 AM
                            [**2176-11-15**]  06:25 PM
                            [**2176-11-16**]  03:35 AM
                            [**2176-11-16**]  06:37 AM
                            [**2176-11-16**]  06:26 PM
                            [**2176-11-17**]  03:56 AM
   WBC
   8.3
   7.9
   8.9
   Hct
   35.8
   33.5
   34.4
   Plt
   135
   116
   135
   Cr
   0.9
   0.7
   0.7
   0.8
   TCO2
   48
   49
   48
   48
   49
   45
   Glucose
   167
   166
   144
   Other labs: PT / PTT / INR:12.9/27.2/1.1, CK / CKMB /
   Troponin-T:181/2/0.02, ALT / AST:17/21, Alk Phos / T Bili:85/1.4,
   Differential-Neuts:87.0 %, Band:0.0 %, Lymph:11.0 %, Mono:2.0 %,
   Eos:0.0 %, Lactic Acid:0.4 mmol/L, Ca++:9.1 mg/dL, Mg++:1.4 mg/dL,
   PO4:3.3 mg/dL
   Imaging: ? interval improvment in R pleural effusion; overall
   relatively unchanged
   Assessment and Plan
 ALKALOSIS, METABOLIC
 IMPAIRED SKIN INTEGRITY
 .H/O DIABETES MELLITUS (DM), TYPE II
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   Assessment and Plan: Ms. [**Known lastname **] is a 61 year old female with a history
   of type II diabetes, hypertension, morbid obesity and chronic dyspnea
   who presents to the emergency room with a one month history of
   worsening dyspnea on exertion. We have been successfully diuresing her
   and she continues to improve but currently having difficulty weaning
   from vent due to high RSBI's.
   #Acute on chronic hypercarbic respiratory failure:  Most likely
   secondary to pulmonary edema from diastolic heart failure. Patient
   CXR has been intermittently improving with aggressive diuresis. Per
   family patient gained approximately 60lb over the past month, most of
   which is likely fluid which we have been diuresing off. Also likely
   obesity hypoventilation. Less concern for bronchospasm as patient has
   not sounded wheezy on exam. No signs of pulmonary infection at this
   time, mini BAL showed no evidence of infection.  Patient did well on
   RSBI this morning while in bed, lowest RSBI while in bed. Breathing
   further improves while up in chair.
   - Continue to diurese her, currently at 1mg/hr of Lasix with continued
   goal of 1-2L/day, will change to Lasix 10mg IV BID and continue to
   assess to ensure -2L daily
   - Tolerating CO2's of 80-90 with well compensated HCO3.
   - OOB to chair daily
   - Continue albuterol and iptratropium inhalers
   -Extubate
   -Plan for noninvasive ventilation, especially when sleeping, patient
   agrees
   #Metabolic Alkalosis: Most likely secondary to aggressive diuresis. Has
   now gotten 6 doses of Acetazolamide. Improved.
   -Continue to monitor
   #Type II Diabetes:
   - regular insulin sliding scale
   -blood sugars have been running in 100's yesterday, keep insulin as is
   FEN: No IVF, replete electrolytes, once extubated will plan to start
   diabetic diet
   Prophylaxis: Subutaneous heparin, Pepcid, start BM regimen
   Access: peripherals, PICC
   Code:  Full
   Communication: Patient, daughter [**Name (NI) 27**] [**Name (NI) 419**] [**Telephone/Fax (1) 11337**]
   Disposition: Monday if doing well s/p extubation
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2176-11-16**] 06:16 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2176-11-10**] 07:30 PM
   PICC Line - [**2176-11-12**] 10:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2176-11-18 07:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Hypoxia d/t edema
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2176-11-17**] 11:00 AM
 NON-INVASIVE VENTILATION - START [**2176-11-17**] 12:30 PM
   - weaned from vent and initially having some difficulty.  Was put on
   BiPAP, for a little while. By the evening, she had improved gases.
   - Had episode of hypoxia with face tent, but was probably moisture
   because she improved on nasal cannula.
   -Continued to diurese her.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2176-11-17**] 12:15 PM
   Heparin Sodium (Prophylaxis) - [**2176-11-17**] 04:38 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-11-18**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.1
C (98.8
   HR: 94 (87 - 103) bpm
   BP: 119/56(77) {60/50(58) - 134/65(89)} mmHg
   RR: 17 (17 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 128 kg (admission): 155 kg
   Height: 67 Inch
                  Total In:
                                                                    609 mL
                  PO:
                  TF:
                                                                    337 mL
   IVF:
                                                                    153 mL
   Blood products:
   Total out:
                                                                  2,850 mL
                                                                    450 mL
   Urine:
                                                                  2,850 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,241 mL
                                                                   -450 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 491 (281 - 557) mL
   PS : 10 cmH2O
   RR (Set): 26
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 30%
   PIP: 16 cmH2O
   SpO2: 95%
   ABG: 7.35/68/98.[**Numeric Identifier 176**]/38/8
   Ve: 4.9 L/min
   PaO2 / FiO2: 327
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   142 K/uL
   9.6 g/dL
   110 mg/dL
   0.7 mg/dL
   38 mEq/L
   4.1 mEq/L
   18 mg/dL
   96 mEq/L
   139 mEq/L
   31.1 %
   6.6 K/uL
        [image002.jpg]
                            [**2176-11-16**]  03:35 AM
                            [**2176-11-16**]  06:37 AM
                            [**2176-11-16**]  06:26 PM
                            [**2176-11-17**]  03:56 AM
                            [**2176-11-17**]  07:38 AM
                            [**2176-11-17**]  12:17 PM
                            [**2176-11-17**]  02:03 PM
                            [**2176-11-17**]  09:09 PM
                            [**2176-11-18**]  02:58 AM
                            [**2176-11-18**]  03:21 AM
   WBC
   7.9
   8.9
   6.6
   Hct
   33.5
   34.4
   31.1
   Plt
   116
   135
   142
   Cr
   0.7
   0.8
   0.7
   TCO2
   49
   45
   45
   46
   44
   41
   39
   Glucose
   166
   144
   110
   Other labs: PT / PTT / INR:12.9/27.2/1.1, CK / CKMB /
   Troponin-T:181/2/0.02, ALT / AST:17/21, Alk Phos / T Bili:85/1.4,
   Differential-Neuts:87.0 %, Band:0.0 %, Lymph:11.0 %, Mono:2.0 %,
   Eos:0.0 %, Lactic Acid:0.5 mmol/L, Ca++:9.0 mg/dL, Mg++:1.6 mg/dL,
   PO4:2.7 mg/dL
   Assessment and Plan
   Assessment and Plan: Ms. [**Known lastname **] is a 61 year old female with a history
   of type II diabetes, hypertension, morbid obesity and chronic dyspnea
   who presents to the emergency room with a one month history of
   worsening dyspnea on exertion. We have been successfully diuresing her
   and she has been extubated and tolerating nasal cannula
   .
   #Acute on chronic hypercarbic respiratory failure:  Most likely
   secondary to pulmonary edema from diastolic heart failure. Patient
   CXR has been intermittently improving with aggressive diuresis. Per
   family patient gained approximately 60lb over the past month, most of
   which is likely fluid which we have been diuresing off. Also likely
   obesity hypoventilation. Less concern for bronchospasm as patient has
   not sounded wheezy on exam. No signs of pulmonary infection at this
   time, mini BAL showed no evidence of infection.
   - Continue to diurese her with 10mg [**Hospital1 7**] IV
   - Tolerating CO2's of 80-90 with well compensated HCO3.
   - Will not be too aggressive with lowering of CO2
   - OOB to chair daily
   - Continue albuterol and iptratropium inhalers
   - PT/OT consult
   -social work consult for compliance
   .
   #Metabolic Alkalosis (resolved): Most likely secondary to aggressive
   diuresis. Has now gotten 6 doses of Acetazolamide.
   - Acetazolamide x1 dose today
   .
   #Type II Diabetes:
   - regular insulin sliding scale
   -blood sugars have been running in 100's yesterday, keep insulin as is
   .
   FEN: No IVF, replete electrolytes, Normal diet
   Prophylaxis: Subutaneous heparin, Pepcid, start BM regimen
   Access: peripherals, PICC
   Code:  Full
   Communication: Patient, daughter [**Name (NI) 27**] [**Name (NI) 419**] [**Telephone/Fax (1) 11337**]
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2176-11-10**] 07:30 PM
   PICC Line - [**2176-11-12**] 10:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: